US07482356B2
Preparation of 3-(2-Methanesulfonyl-pyrimidin-4-yl)-2-o-tolyloxy-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (3):
To a solution of 3-(2-methylsulfanyl-pyrimidin-4-yl)-2-o-tolyloxy-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 2, (0.20 g, 0.56 mmol) in THF:methanol (6 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (1.37 g, 2.24 mmol) in H2O (6 mL). After stirring the reaction for 1 hour at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is extracted three times with EtOAc, the organic phases are combined, dried (MgSO4), filtered and concentrated in vacuo to afford the desired product which is used without further purification.

reactant | 3-(2-methylsulfanyl-pyrimidin-4-yl)-2-o-tolyloxy-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CSC1=NC=CC(=N1)C1=C(C(N2N1CCC2)=O)OC2=C(C=CC=C2)C | C18H18N4O2S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 6 mL | O | H2O
solvent | methanol | 6 mL | CO | CH4O
product | 3-(2-Methanesulfonyl-pyrimidin-4-yl)-2-o-tolyloxy-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CS(=O)(=O)C1=NC=CC(=N1)C1=C(C(N2N1CCC2)=O)OC2=C(C=CC=C2)C | C18H18N4O4S
